US07981903B2
A solution of 1-(2-fluoroethyl)-4-{1-[3-(methyloxy)-4-nitrophenyl]-4-piperidinyl}piperazine (15.94 g, 43.50 mmol) in tetrahydrofuran (200 mL) and methanol (300 mL) was cooled to 0° C. Nickel(II) chloridehexahydrate (5.18 g, 21.80 mmol) was added in one portion. The solution was stirred for 30 minutes followed by portion-wise addition of sodium borohydride (3.29 g, 87.00 mmol). Prior to warming the reaction to room temperature additional nickel (II) chloridehexahydrate (5.18 g, 21.80 mmol) and sodium borohydride (3.29 g, 87.00 mmol) were added to the reaction. The solvent was removed in vacuo and the residue was taken up in dichloromethane, filtered through celite, and washed with ethyl acetate. Purification by flash chromatography provided 4-{4-[4-(2-fluoroethyl)-1-piperazinyl]-1-piperidinyl}-2-(methyloxy)aniline (13.46 g, 40.10 mmol, 92%) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.46 (qd, J=11.9, 3.6 Hz, 2 H) 1.76 (d, J=12.1 Hz, 2 H) 2.12-2.20 (m, 1 H) 2.35-2.45 (m, 10 H) 2.53 (dt, JHF=28.6 Hz, J=4.9 Hz, 2 H) 3.37 (d, J=12.1 Hz, 2 H) 3.68 (s, 3 H) 4.14 (br. s., 2 H) 4.47 (dt, JHF=47.9 Hz, J=4.94 Hz, 2 H) 6.24 (dd, J=8.2, 2.4 Hz, 1 H) 6.43 (d, J=2.4 Hz, 1 H) 6.45 (d, J=8.4 Hz, 1 H).

reactant | 1-(2-fluoroethyl)-4-{1-[3-(methyloxy)-4-nitrophenyl]-4-piperidinyl}piperazine | 43.50 mmol, 15.94 g | FCCN1CCN(CC1)C1CCN(CC1)C1=CC(=C(C=C1)[N+](=O)[O-])OC | C18H27FN4O3
reactant | sodium borohydride | 87.00 mmol, 3.29 g | [BH4-].[Na+]
reactant | sodium borohydride | 87.00 mmol, 3.29 g | [BH4-].[Na+]
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | methanol | 300 mL | CO | CH4O
catalyst | Nickel(II) | [Ni+2]
product | 4-{4-[4-(2-fluoroethyl)-1-piperazinyl]-1-piperidinyl}-2-(methyloxy)aniline | 40.10 mmol, 13.46 g, 92% | FCCN1CCN(CC1)C1CCN(CC1)C1=CC(=C(N)C=C1)OC | C18H29FN4O
